US07960593B2
By means of a centrifugal pump, a circulation was pumped through the main reactor at a rate of about 500 g/h at a feed of L-isopulegol of 24.5 g/h (total amount 588 g) with a purity of 99.9% by weight and 99.8% ee. The hydrogen pressure was kept constant at 40 bar. The main reactor was operated at a temperature of 85° C. and the postreactor at 75° C. All pipelines were provided with electrical trace heating to prevent the crystallization of the enantiomerically pure L-menthol (m.p. 44° C.). This afforded L-menthol in an amount of 597 g, corresponding to a rate of 24.9 g/h. The L-menthol thus obtained (99.8% ee) was analyzed by gas chromatography. The chemical purity of the L-menthol output is compiled in Table 1.

reactant | L-isopulegol | C[C@@H]1CC[C@H]([C@@H](C1)O)C(=C)C | C10H18O
reactant | hydrogen | [H][H] | H2
product | L-menthol | C[C@@H]1CC[C@H]([C@@H](C1)O)C(C)C | C10H20O
